US08097687B2
Preparation of Acrylamide/Dimethylaminoethyl Acrylate Methyl chloride Quaternary Salt (50/50) copolymers.
An aqueous monomer phase was made up dissolving 9.82 g Adipic acid (Sigma-Aldrich, St. Louis, Mo.) and 34.78 g DI water in 227.74 g of 49.5% aqueous solution of Acrylamide (Nalco Company, Naperville, Ill.). The components were stirred until a homogenous solution was formed. To this solution added 0.1 g of EDTA followed by 384.084 g Dimethylaminoethyl acrylate methylchloride (DMAEA-MCQ, SNF Riceboro, Ga.) and mixed well. An oil phase was prepared from 274.96 g of hydrocarbon solvent (Exxon Chemical Company, Houston, Tex.), 14.1 g Arlacel 80AC (Uniqema, New Castle, Del.) and 16.3 g Tween 85 (Uniqema, New Castle, Del.) at room temperature. Oil phase was added to a 1500 mL reactor set at 40° C. When oil phase addition was complete rate of mixing was increased from 500 rpm to 1000 rpm and added the monomer phase slowly into the oil phase. The mixing was accomplished by a 10 mm rod with a Teflon paddle at the base and 6-blade turbine mounted 3-inches from the bottom. The resulting emulsion was mixed for next 30 minutes. At 30 minutes the multifunctional azo initiator was added and started to purge the reaction with nitrogen (about 1 L/min). The initiator molecule (0.40 to 0.012 g) was charged as a solution in DMF, or as powder into the emulsion or it was semi batched over 2-4 hrs. Polymerization was started at 40° C. and during the reaction the temperature was increase to 70° C. At the end of the polymerization the reaction held at 70° C. for one hour and cooled to room temperature. A polymer solution was made up by mixing 2.0 g of water-in-oil emulsion and 198 g water with 0.12 g of nonionic surfactant alcohol ethoxylate (Clariant Basel, Switzerland), in a 300 ml tall beaker for 30 minutes with vigorous mixing. An RSV of 19.2 dl/g (1M NaNO3, 450 ppm, 30° C.) was measured for the polymer.

reactant | Adipic acid | 9.82 g | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | EDTA | 0.1 g | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | Dimethylaminoethyl acrylate methylchloride | 384.084 g | CCl.C(C=C)(=O)OCCN(C)C
reactant | Arlacel | 14.1 g | CCCCCCCC/C=C\CCCCCCCC(=O)OC[C@H](C1[C@@H]([C@H](CO1)O)O)O | C24H44O6
solvent | Acrylamide | C(C=C)(=O)N | C3H5NO
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | 198 g | O | H2O
solvent | water | 2.0 g | O | H2O
solvent | DI water | 34.78 g | O | H2O
product | Acrylamide Dimethylaminoethyl Acrylate Methyl chloride | C(C=C)(=O)N.CCl.C(C=C)(=O)OCCN(C)C | InChI=1S/C7H13NO2.C3H5NO.CH3Cl/c1-4-7(9)10-6-5-8(2)3;1-2-3(4)5;1-2/h4H,1,5-6H2,2-3H3;2H,1H2,(H2,4,5);1H3
